US04329367
The mixture of 17.3 g of 1-(3-hydroxyphenyl)-2-(3,3-diphenylpropylamino)-propane, 100 ml of dimethylsulfoxide and 5 ml of 10 N-aqueous sodium hydroxide is stirred at room temperature for 1/2 hour, combined with 8.05 g of 4-chlorobenzyl chloride and stirred 16 hours longer. It is poured into water, extracted with ethyl acetate, the extract washed with saturated aqueous sodium chloride, dried and evaporated. The residue is taken up in diethyl ether, the solution acidified with isopropanolic hydrogen chloride, the precipitate collected and washed with diethyl ether, to yield the 1-[3-(4-chlorobenzyloxy)-phenyl]-2-(3,3-diphenylpropylamino)-propane hydrochloride melting at 184°-189°.

reactant | 1-(3-hydroxyphenyl)-2-(3,3-diphenylpropylamino)-propane | 17.3 g | OC=1C=C(C=CC1)CC(C)NCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C24H27NO
reactant | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-chlorobenzyl chloride | 8.05 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | water | O | H2O
product | 1-[3-(4-chlorobenzyloxy)-phenyl]-2-(3,3-diphenylpropylamino)-propane hydrochloride | Cl.ClC1=CC=C(COC=2C=C(C=CC2)CC(C)NCCC(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C31H32ClNO.ClH/c1-24(21-26-9-8-14-30(22-26)34-23-25-15-17-29(32)18-16-25)33-20-19-31(27-10-4-2-5-11-27)28-12-6-3-7-13-28;/h2-18,22,24,31,33H,19-21,23H2,1H3;1H
